US08198271B2
N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-hydroxymethylpyridine-2-carboxylic acid amide (Reference Compound No. 3-1)
Under ice cooling, lithium tetrahydroborate (1.5 g, 70 mmol) was added to a mixed solution of N-(4-t-butoxycarbonylaminothiophen-3-yl)-5-methoxycarbonylpyridine-2-carboxylic acid amide (Reference Compound No. 2-1, 24 g, 64 mmol) in THF (1.3 L)-1,4-dioxane (1.3 L), and then the reaction mixture was stirred at same temperature overnight. Lithium tetrahydroborate (0.30 g, 14 mmol) was added thereto and the mixture was stirred at room temperature for 2 hours. Under ice cooling, water (0.40 L) and 10% aqueous citric acid solution (25 mL) were added thereto. The precipitates were filtered off and the filtrate was evaporated under reduced pressure. Water (0.30 L) was added thereto and the precipitates were filtered and dried under reduced pressure to give 21 g of the title reference compound as a pale yellow solid. (Yield 95%)

reactant | lithium tetrahydroborate | 70 mmol, 1.5 g | [BH4-].[Li+]
reactant | N-(4-t-butoxycarbonylaminothiophen-3-yl)-5-methoxycarbonylpyridine-2-carboxylic acid amide | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)C(=O)OC | C17H19N3O5S
reactant | 1,4-dioxane | 1.3 L | O1CCOCC1 | C4H8O2
reactant | Lithium tetrahydroborate | 14 mmol, 0.30 g | [BH4-].[Li+]
reactant | citric acid | 25 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 1.3 L | C1CCOC1 | C4H8O
solvent | water | 0.40 L | O | H2O
product | N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-hydroxymethylpyridine-2-carboxylic acid amide | Yield 95% | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)CO | C16H19N3O4S
